US07470790B2
Synthesis of (2-bromo-ethyl)-carbamic acid tert-butyl ester (II-7)
To a solution of 2-bromoethylamine hydrobromide (0.0049 mol) in MeOH (30 mL), triethylamine (7 mL) and di-tert-butyl dicarbonate (0.0098 mol) was added. The reaction mixture was stirred at 60° C. for 1 h and then at room temperature for 14 h. The reaction mixture was concentrated in vacuo, and then dissolved in CH2Cl2, washed successively with 1M HCl, brine, saturated NaHCO3 aqueous solution and brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by column chromatography (silica gel, 100% CH2Cl2) to give pure product as colorless oil (84%).

reactant | 2-bromoethylamine hydrobromide | 0.0049 mol | Br.BrCCN
reactant | di-tert-butyl dicarbonate | 0.0098 mol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 30 mL | CO | CH4O
solvent | triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
product | (2-bromo-ethyl)-carbamic acid tert-butyl ester | 84% | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
